US09126974B2
N-(3-chloro-1H-pyrazol-4-yl)-N-ethyl-3-((3,3,3-trifluoropropyl)thio)propanamide (Compound 4.7)
A 500-mL 3-neck flask was charged with 3-chloro-N-ethyl-1H-pyrazol-4-amine (3.25 g, 22.3 mmol), tetrahydrofuran (80 mL) and water (80 mL). The resulting suspension was cooled to 5° C. and sodium bicarbonate (3.75 g, 44.6 mmol) was added, followed by dropwise addition of 3-((3,3,3-trifluoropropyl)thio)propanoyl chloride (5.42 g, 24.56 mmol) at <5° C. The reaction mixture was stirred at <10° C. for 3 hours. The reaction mixture was poured into water (100 mL) and the mixture was extracted with dichloromethane (150 mL×3). The combined organics were washed with water (200 mL) and brine (200 mL), dried over anhydrous sodium sulfate (Na2SO4), filtered, and concentrated under reduced pressure to afford crude product as a light brown oil, which was purified by flash column chromatography using 0-5% methanol/dichloromethane as eluent. The fractions containing pure product were concentrated to give the desired product as a white solid (3.60 g, 48%): mp 67-68° C.; 1H NMR (400 MHz, CDCl3) δ 11.55 (bs, 1H), 7.65 (s, 1H), 3.73-3.68 (dd, J1=7.2, J2=14.0, 2H), 2.86-2.82 (t, J=7.2, 2H), 2.67-2.63 (t, J=8.0, 2H), 2.45-2.30 (m, 4H), 1.16-1.12 (t, J=7.2, 3H); 13C NMR (101 MHz, CDCl3) δ 171.87, 137.89, 128.40, 125.97 (q, J=277.4 Hz), 120.81, 44.01, 34.31 (q, J=27.3 Hz), 33.97, 27.30, 24.08 (q, J=3.4 Hz), 12.77; ESIMS m/z 330 ([M+H]+).

reactant | 3-chloro-N-ethyl-1H-pyrazol-4-amine | 22.3 mmol, 3.25 g | ClC1=NNC=C1NCC | C5H8ClN3
reactant | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
reactant | sodium bicarbonate | 44.6 mmol, 3.75 g | C([O-])(O)=O.[Na+]
reactant | 3-((3,3,3-trifluoropropyl)thio)propanoyl chloride | 24.56 mmol, 5.42 g | FC(CCSCCC(=O)Cl)(F)F | C6H8ClF3OS
solvent | water | 100 mL | O | H2O
solvent | water | 80 mL | O | H2O
product | N-(3-chloro-1H-pyrazol-4-yl)-N-ethyl-3-((3,3,3-trifluoropropyl)thio)propanamide | 3.60 g, 48% | ClC1=NNC=C1N(C(CCSCCC(F)(F)F)=O)CC | C11H15ClF3N3OS
